US07238716B2
A mixture of 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole-(2.76 g), 2,4-dihydroxybenzophenone (2.00 g), anhydrous potassium carbonate (1.29 g) and acetone (50 mL) was heated under reflux for 0.15 hrs. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give crystals (1.72 g, 40%) of 4-[4-(4-benzoyl-3-hydroxyphenoxymethyl)phenoxymethyl]-5-methyl-2-phenyloxazole. Recrystallization from ethyl acetate-hexane gave pale-yellow prism crystals. melting point: 160-161° C.

reactant | 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole- | 2.76 g | ClCC1=CC=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C18H16ClNO2
reactant | 2,4-dihydroxybenzophenone | 2.00 g | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)O | C13H10O3
reactant | potassium carbonate | 1.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 50 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 4-[4-(4-benzoyl-3-hydroxyphenoxymethyl)phenoxymethyl]-5-methyl-2-phenyloxazole | 1.72 g, 40% | C(C1=CC=CC=C1)(=O)C1=C(C=C(OCC2=CC=C(OCC=3N=C(OC3C)C3=CC=CC=C3)C=C2)C=C1)O | C31H25NO5
